US04017631
1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-fluorobenzyl)-imidazolium iodide;
mp. 151° -153° C., by the reaction of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole and p-fluorobenzyl iodide.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | p-fluorobenzyl iodide | FC1=CC=C(CI)C=C1 | C7H6FI
product | 1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-fluorobenzyl)-imidazolium iodide | [I-].ClC1=C(C(C[N+]2=CN(C=C2)CC2=CC=C(C=C2)F)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C25H20Cl4FN2O.HI/c26-19-4-3-18(23(28)11-19)15-33-25(22-8-5-20(27)12-24(22)29)14-32-10-9-31(16-32)13-17-1-6-21(30)7-2-17;/h1-12,16,25H,13-15H2;1H/q+1;/p-1
